US05508467
Stage 1: 2-Chloroethyl(3-nitro-4-methoxyphenyl)carbamate
420.5 g of 4-amino-2-nitroanisole are dissolved in 1275 ml of diethylene glycol dimethyl ether and 150 ml of water, 135 g of calcium carbonate are added and the mixture is heated to 78° C. 375 g of 2-chloroethyl chloroformate are allowed to run into this mixture in the course of 3 hours such that the reaction temperature remains at 78°-80° C. The mixture is subsequently stirred for 1.5 hours to bring the reaction to completion and is cooled to 35° C. and water and ice are added. The product which has precipitated is filtered off, washed with water and dried.

reactant | 4-amino-2-nitroanisole | 420.5 g | NC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H8N2O3
reactant | calcium carbonate | 135 g | C([O-])([O-])=O.[Ca+2]
reactant | 2-chloroethyl chloroformate | 375 g | ClC(=O)OCCCl | C3H4Cl2O2
solvent | diethylene glycol dimethyl ether | 1275 ml | COCCOCCOC | C6H14O3
solvent | water | 150 ml | O | H2O
product | 2-Chloroethyl(3-nitro-4-methoxyphenyl)carbamate | ClCCOC(NC1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C10H11ClN2O5
